US04440646
There were mixed together 23.0 grams (1.0 mole) of sodium metal along with 90 cc. of xylene and 80 cc. of tetrahydrofurane and the mixture placed under a nitrogen atmosphere. There were then added over a 35 minute period 138.10 grams (1.0 mole) of diethyl phosphite using external cooling to control the reaction exotherm and maintain the temperature at 60° to 65° C. After addition was complete the mixture was heated to 100° C. and maintained there for about 1 hour until there was no more sodium. The mixture was cooled to 60° C. and there was started the addition of 64.5 grams (0.33 mole) of benzotrichloride (α,α,α-trichlorotoluene). The exothermic reaction was cooled to maintain the temperature at 60° to 65° C. during the 25 minute addition period. The mixture was heated at 70° to 75° C. for 7 hours and the sodium chloride filtered off. The product in the pot was then subjected to distillation, terminal conditions being a pot temperature of 205° C., distillate temperature 125° C. and pressure 4 mm. The solid residue in the pot was hexaethyl phenyl methane triphosphonate. This product was hydrolyzed and the hydrolysis product purified as in Example 1 to obtain phenyl methane triphosphonic acid.

reactant | sodium | 1.0 mole, 23.0 grams | [Na] | Na
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
reactant | diethyl phosphite | 1.0 mole, 138.10 grams | P(OCC)(OCC)[O-]
reactant | benzotrichloride | 0.33 mole, 64.5 grams | C1(=CC=CC=C1)C(Cl)(Cl)Cl | C7H5Cl3
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | phenyl methane triphosphonic acid | C1(=CC=CC=C1)C(P(O)(=O)O)(P(O)(=O)O)P(O)(=O)O | C7H11O9P3
